2141-01-16 10:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Transferred to ICU yesterday for respiratory failure.  Intubated.
   Started on antibiotics.
    No major events overnight.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-1-15**] 03:08 PM
   Ceftazidime - [**2141-1-16**] 12:25 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-1-15**] 04:07 PM
   Famotidine (Pepcid) - [**2141-1-15**] 08:54 PM
   Other medications:
   ASA, RISS, peridex, simvastatin, albuterol/atrovent, allopurinol,
   flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-16**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.5
C (99.5
   HR: 82 (74 - 112) bpm
   BP: 112/51(71) {101/44(64) - 146/65(94)} mmHg
   RR: 21 (17 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  4,010 mL
                                                                    873 mL
   PO:
             TF:
   IVF:
                                                                  4,010 mL
                                                                    873 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    550 mL
   Urine:
                                                                  1,145 mL
                                                                    550 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,765 mL
                                                                    323 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   SpO2: 94%
   ABG: 7.40/35/137/22/-1
   Ve: 10.2 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   166 K/uL
   143 mg/dL
   1.3 mg/dL
   22 mEq/L
   3.7 mEq/L
   37 mg/dL
   115 mEq/L
   146 mEq/L
   33.2 %
   6.9 K/uL
        [image002.jpg]
                             [**2141-1-11**]  03:29 AM
                             [**2141-1-12**]  02:15 AM
                             [**2141-1-12**]  08:53 AM
                             [**2141-1-15**]  07:15 AM
                             [**2141-1-15**]  08:05 AM
                             [**2141-1-15**]  03:26 PM
                             [**2141-1-16**]  05:07 AM
   WBC
   9.6
   5.7
   7.1
   6.9
   Hct
   42.2
   39.1
   33.2
   Plt
   160
   149
   166
   Cr
   1.0
   1.0
   1.3
   TropT
   0.01
   <0.01
   TCO2
   26
   22
   Glucose
   105
   104
   143
   Other labs: PT / PTT / INR:14.7/33.2/1.3, CK / CKMB /
   Troponin-T:234/2/<0.01, ALT / AST:23/28, Alk Phos / T Bili:40/0.7,
   Differential-Neuts:84.4 %, Band:10.0 %, Lymph:11.8 %, Mono:2.9 %,
   Eos:0.7 %, Lactic Acid:1.9 mmol/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.6 mg/dL
   Imaging: CXR:  Rapid resolution of L sided infiltrate.  ETT in place.
   Microbiology: Sputum Cx:  Pending.
   Assessment and Plan
   83 yo M admitted 4 days ago with acute CVA now transferred to the ICU
   with respiratory failure in the setting of a likely aspiration.
   Resp Failure:  Aspiration.  Rapid resolution of infiltrates implies
   pneumonitis rather than PNA.
     -SBT today.
     -Follow up sputum Cx. If no evidence of pathogens, will d/c abx.
     -D/C flagyl now.
     -Pulmonary toilet
   CVA:  Continues on ASA. , poor gag and doubt he will be able to defend
   airway given current exam
   Decreased HCT:  Possibly dilutional.  Some bleeding in foley bag
     -Guiac stool
     -Repeat HCT
     -Irrigate foley, CBI if needed
   Aspiration risk:  Will check for gag.  Discuss with family re: PEG..
   Would prefer he remain intubated till pEG completed
   Hemodynamics:  Currently normotensive.  Neurology would prefer SBP's
   110-180.
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2141-1-15**] 09:37 AM
   Arterial Line - [**2141-1-15**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2141-01-16 11:55:00 Physician Resident Progress Note
Chief Complaint: Transferred from Neuro ICU yesterday for
   aspiration/respiratory failure
   24 Hour Events:
 INVASIVE VENTILATION - START [**2141-1-15**] 09:10 AM
 ARTERIAL LINE - START [**2141-1-15**] 02:00 PM
 BLOOD CULTURED - At [**2141-1-15**] 03:26 PM
 URINE CULTURE - At [**2141-1-15**] 04:31 PM
 FEVER - 102.1
F - [**2141-1-15**] 12:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2141-1-16**] 08:09 AM
   Vancomycin - [**2141-1-16**] 09:09 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-1-15**] 04:07 PM
   Famotidine (Pepcid) - [**2141-1-16**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-16**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.5
C (99.5
   HR: 78 (74 - 106) bpm
   BP: 120/50(74) {101/44(64) - 146/65(94)} mmHg
   RR: 21 (17 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  4,010 mL
                                                                  1,809 mL
   PO:
             TF:
   IVF:
                                                                  4,010 mL
                                                                  1,809 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    600 mL
   Urine:
                                                                  1,145 mL
                                                                    600 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,765 mL
                                                                  1,209 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 450 (450 - 550) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.37/44/91.[**Numeric Identifier **]/22/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: No acute distress, Intubated, sedated
   Eyes / Conjunctiva: OP moistr, good dentition
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior lung fields)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   166 K/uL
   12.4 g/dL
   143 mg/dL
   1.3 mg/dL
   22 mEq/L
   3.7 mEq/L
   37 mg/dL
   115 mEq/L
   146 mEq/L
   33.2 %
   6.9 K/uL
        [image002.jpg]
                             [**2141-1-11**]  03:29 AM
                             [**2141-1-12**]  02:15 AM
                             [**2141-1-12**]  08:53 AM
                             [**2141-1-15**]  07:15 AM
                             [**2141-1-15**]  08:05 AM
                             [**2141-1-15**]  03:26 PM
                             [**2141-1-16**]  05:07 AM
                             [**2141-1-16**]  11:02 AM
   WBC
   9.6
   5.7
   7.1
   6.9
   Hct
   42.2
   39.1
   33.2
   Plt
   160
   149
   166
   Cr
   1.0
   1.0
   1.3
   TropT
   0.01
   <0.01
   TCO2
   26
   22
   26
   Glucose
   105
   104
   143
   Other labs: PT / PTT / INR:14.7/33.2/1.3, CK / CKMB /
   Troponin-T:234/2/<0.01, ALT / AST:23/28, Alk Phos / T Bili:40/0.7,
   Differential-Neuts:84.4 %, Band:10.0 %, Lymph:11.8 %, Mono:2.9 %,
   Eos:0.7 %, Lactic Acid:1.9 mmol/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
   83 yom with recent right pontine stroke who was initially in the Neuro
   ICU who is not transferred to the MICU in the setting of aspiration.
   # Aspiration:  Patient was transferred yesterday for hypoxia, tachypnea
   and tachycardia in the setting of tube feeds.  He was intubated for
   respiratory distress/failure.  CXR initially showed marked left lung
   opacification.  CXR this morning shows marked clearing in consolidation
   which is consistent with aspiration pneumonitis.  Patient did spike a
   fever yesterday at noon but has remained afebrile since.  Sputum
   culture shows Gram+ cocci and gram
 rods.
   -  cont Vanco, Zosyn for now until culture is speciated.
   -  d/c ARDSNET protocol
   -  check gag reflex
   -  attempt SBT
   -  attempt extubation if tolerates SBP and +gag
   -  stop Flagyl
   -  f/u sputum cultures, blood Cx, Urine Cx
   -  NPO for now
   -  Discuss with family regarding possible PEG placement as patient will
   likely not tolerate tube feeds
   # Right Hemi-pontine infarction:
   -  f/u Neurology recs
   -  ASA 81mg daily
   -  cont statin
   -  SSI for optimal glucose control
   -  allow blood pressure to autoregulate in SBP 110-180 range
   # HTN
   -  hold BP meds, goal SBP 110-180
   # Anemia:  patient with drop in HCT from 39-33.   +red urine in foley
   bag, but unlikely to cause this amount of anemia
   -          recheck HCT
   -          UA
   -          Irrigate foley
   # Acute Renal Failure:  Patient with increase in Cr from 1.0-1.3.
   Bun/Cr ratio > 20, making prerenal syndrome most likely cause.  Patient
   is likely dehydrated in setting of NPO status.
   -          1L IVF bolus
   -          Recheck Cr in PM
   -          UA as above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-1-15**] 09:37 AM
   Arterial Line - [**2141-1-15**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments: [**Name (NI) 288**] [**Name (NI) 3636**] (wife):
   [**Telephone/Fax (1) 3637**]
   Code status: Full code
   Disposition:ICU

2141-01-17 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2141-1-16**] 04:17 PM
 SPUTUM CULTURE - At [**2141-1-16**] 04:17 PM
 FEVER - 101.7
F - [**2141-1-16**] 04:00 PM
   Family agreed to PEG placement; surgery consulted and plan to place it
   at bedside this morning.
   Flagyl was discontinued (but [**Name8 (MD) 24**] RN, patient had never received this
   medication).
   History obtained from Patient, Family / [**Hospital 380**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-1-16**] 09:09 AM
   Ceftazidime - [**2141-1-17**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2141-1-16**] 08:10 AM
   Heparin Sodium (Prophylaxis) - [**2141-1-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-17**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.4
C (99.3
   HR: 75 (72 - 95) bpm
   BP: 112/42(65) {110/42(65) - 156/70(101)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,484 mL
                                                                    603 mL
   PO:
             TF:
   IVF:
                                                                  3,484 mL
                                                                    603 mL
   Blood products:
   Total out:
                                                                  1,355 mL
                                                                    265 mL
   Urine:
                                                                  1,355 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,129 mL
                                                                    338 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 503 (503 - 559) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.39/44/91/23/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   167 K/uL
   11.5 g/dL
   123 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.7 mEq/L
   28 mg/dL
   115 mEq/L
   146 mEq/L
   30.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2141-1-12**]  08:53 AM
                             [**2141-1-15**]  07:15 AM
                             [**2141-1-15**]  08:05 AM
                             [**2141-1-15**]  03:26 PM
                             [**2141-1-16**]  05:07 AM
                             [**2141-1-16**]  11:02 AM
                             [**2141-1-16**]  02:53 PM
                             [**2141-1-16**]  09:46 PM
                             [**2141-1-17**]  04:11 AM
                             [**2141-1-17**]  05:09 AM
   WBC
   7.1
   6.9
   8.0
   Hct
   33.2
   30.6
   31.2
   30.7
   Plt
   166
   167
   Cr
   1.3
   1.1
   TropT
   <0.01
   TCO2
   26
   22
   26
   28
   Glucose
   143
   123
   Other labs: PT / PTT / INR:15.2/33.6/1.3, CK / CKMB /
   Troponin-T:234/2/<0.01, ALT / AST:23/28, Alk Phos / T Bili:40/0.7,
   Differential-Neuts:84.4 %, Band:10.0 %, Lymph:11.8 %, Mono:2.9 %,
   Eos:0.7 %, Lactic Acid:1.9 mmol/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   This is an 83 yom with recent right pontine stroke who was initially in
   the Neuro ICU who was transferred for aspiration.
   # Aspiration:  Patient seemed to be improving yesterday but spiked
   another temperature yesterday and now has worsening left lung
   infiltrates consistent with aspiration pneumonia.  Plan is to continue
   current antibiotic regimen of Vancomycin and Ceftazidime.
   -- cont Vanco, Ceftaz
   -- attempt SBT
   -- f/u sputum cultures, blood cultures
   -- PEG tube placed by surgery with no complications, CXR shows no
   perforation
   -- NPO for now
   -- trend fever curve
   # Right Hemi-Pontine Infarction:
   -- f/u Neurology recs
   -- cont asa, statin
   -- cont SSI for glucose control
   -- allow BP to autoregulate with SBP 110-180
   # UTI:  UA with WBC, RBC, Nitrites consistent with possible UTI
   -- cont Ceftaz
   -- f/u urine cultures
   # HTN: hold BP meds as above
   # Anemia:  stabilized, ?from hematuria and IVF.
   # ARF: resolved with fluid, likely from dehydration
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-1-15**] 09:37 AM
   Arterial Line - [**2141-1-15**] 02:00 PM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: H2 blocker
   VAP:  HOB elevation, mouth care, daily wake up, RSBI
   Comments:
   Communication:  Comments: wife [**Name (NI) 288**] [**Name (NI) 3636**]: [**Telephone/Fax (1) 3637**]
   Code status: Full code
   Disposition: ICU

2141-01-17 10:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PEG placed this morning.
   Febrile to [**Age over 90 2224**] yesterday.
   Moderate amount of tan secretions.  Requiring secretions Q2hr
   overnight.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2141-1-17**] 08:55 AM
   Vancomycin - [**2141-1-17**] 10:00 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-1-17**] 12:00 AM
   Famotidine (Pepcid) - [**2141-1-17**] 08:23 AM
   Vecuronium - [**2141-1-17**] 09:00 AM
   Other medications:
   ASA, RISS, Atrovent/Albuterol, simvastatin, allopurinol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-17**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.4
C (101.1
   HR: 87 (72 - 95) bpm
   BP: 119/55(76) {110/42(65) - 170/72(106)} mmHg
   RR: 20 (16 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,484 mL
                                                                  1,215 mL
   PO:
             TF:
   IVF:
                                                                  3,484 mL
                                                                  1,215 mL
   Blood products:
   Total out:
                                                                  1,355 mL
                                                                    580 mL
   Urine:
                                                                  1,355 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,129 mL
                                                                    635 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 481 (481 - 559) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.39/44/91/23/0
   Ve: 10.4 L/min
   PaO2 / FiO2: 91
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Respiratory:  L basilar rhonchi
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Newly placed PEG tube
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   167 K/uL
   123 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.7 mEq/L
   28 mg/dL
   115 mEq/L
   146 mEq/L
   30.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2141-1-12**]  08:53 AM
                             [**2141-1-15**]  07:15 AM
                             [**2141-1-15**]  08:05 AM
                             [**2141-1-15**]  03:26 PM
                             [**2141-1-16**]  05:07 AM
                             [**2141-1-16**]  11:02 AM
                             [**2141-1-16**]  02:53 PM
                             [**2141-1-16**]  09:46 PM
                             [**2141-1-17**]  04:11 AM
                             [**2141-1-17**]  05:09 AM
   WBC
   7.1
   6.9
   8.0
   Hct
   33.2
   30.6
   31.2
   30.7
   Plt
   166
   167
   Cr
   1.3
   1.1
   TropT
   <0.01
   TCO2
   26
   22
   26
   28
   Glucose
   143
   123
   Other labs: PT / PTT / INR:15.2/33.6/1.3, CK / CKMB /
   Troponin-T:234/2/<0.01, ALT / AST:23/28, Alk Phos / T Bili:40/0.7,
   Lactic Acid:1.9 mmol/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: U/A:  >50RBC, +nitrites, large LE
   Imaging: CXR: ETT in place.  Left lower opacity denser today.
   Microbiology: Sputum Cx: staph, op flora.
   Assessment and Plan
   83 yo M admitted with acute CVA now transferred to the ICU with
   respiratory failure in the setting of a likely aspiration.
   Resp Failure:  Aspiration.  Persistent fevers and worsening infiltrates
   today suggest pneumonia vs pneumonitis.
     -Will continue with empiric Vanco/Ceftaz until cultures are
   finalized.
     -Pulmonary toilet, may need bronchoscopy when ready to extubate in a
   day or so or earlier if problems with atelectasis
     -Given copious secretions and possible impaired gag, will likely need
   better pulmonary toilet before extubation is possible.
   CVA:  Continues on ASA.
   Decreased HCT:  Possibly dilutional.  Now stable
   Hematuria:  Now resolved.  Likely related to traumatic foley placement.
    Aspiration risk:  PEG tube placed today.   If recurrent aspiration is
   a problem in the future, need to consider tracheostomy.
   Hemodynamics:  Currently normotensive.  Neurology would prefer SBP's
   110-180.
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2141-1-15**] 09:37 AM
   Arterial Line - [**2141-1-15**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2141-01-18 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt had PEG placed by surgery yesterday, tolerated procedure well
   Spiked FEVER - 101.8
F - [**2141-1-17**] 02:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-1-17**] 10:00 AM
   Ceftazidime - [**2141-1-18**] 07:53 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 35 mcg/hour
   Other ICU medications:
   Vecuronium - [**2141-1-17**] 09:00 AM
   Famotidine (Pepcid) - [**2141-1-18**] 07:44 AM
   Heparin Sodium (Prophylaxis) - [**2141-1-18**] 07:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-18**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.9
C (98.5
   HR: 73 (73 - 100) bpm
   BP: 130/50(75) {109/41(64) - 170/72(106)} mmHg
   RR: 20 (17 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,362 mL
                                                                    144 mL
   PO:
             TF:
   IVF:
                                                                  2,122 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                  1,290 mL
                                                                    480 mL
   Urine:
                                                                  1,290 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,072 mL
                                                                   -336 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 540 (504 - 673) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 11 cmH2O
   Plateau: 13 cmH2O
   SpO2: 96%
   ABG: 7.41/40/106/24/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: No acute distress, Intubated, sedated
   Eyes / Conjunctiva: OP moist, good dentition
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior lung fields), crackles at bases
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Labs / Radiology
   183 K/uL
   11.0 g/dL
   115 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.8 mEq/L
   28 mg/dL
   114 mEq/L
   144 mEq/L
   29.6 %
   8.8 K/uL
        [image002.jpg]
                             [**2141-1-15**]  08:05 AM
                             [**2141-1-15**]  03:26 PM
                             [**2141-1-16**]  05:07 AM
                             [**2141-1-16**]  11:02 AM
                             [**2141-1-16**]  02:53 PM
                             [**2141-1-16**]  09:46 PM
                             [**2141-1-17**]  04:11 AM
                             [**2141-1-17**]  05:09 AM
                             [**2141-1-18**]  05:20 AM
                             [**2141-1-18**]  05:34 AM
   WBC
   6.9
   8.0
   8.8
   Hct
   33.2
   30.6
   31.2
   30.7
   29.6
   Plt
   166
   167
   183
   Cr
   1.3
   1.1
   1.1
   TropT
   <0.01
   TCO2
   22
   26
   28
   26
   Glucose
   143
   123
   115
   Other labs: PT / PTT / INR:15.2/33.6/1.3, CK / CKMB /
   Troponin-T:234/2/<0.01, ALT / AST:23/28, Alk Phos / T Bili:40/0.7,
   Differential-Neuts:84.4 %, Band:10.0 %, Lymph:11.8 %, Mono:2.9 %,
   Eos:0.7 %, Lactic Acid:1.9 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.5 mg/dL
   Imaging: CXR [**1-17**] Since earlier today, a PEG was installed, not well
   depicted on this
   examination. A nasogastric tube was removed. The ETT still ends in
   expected
   position.
   Left lower lobe and left perihilar opacities significantly increased,
   worrisome for aspiration and small left pleural effusion. There is no
   other
   change. The right lung is essentially clear.
   Microbiology: [**2141-1-17**] 9:37 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2141-1-17**]):
         [**10-15**] PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS
   /26/09 4:10 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2141-1-16**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
      RESPIRATORY CULTURE (Preliminary):
         ? OROPHARYNGEAL FLORA.
         STAPH AUREUS COAG +.    SPARSE GROWTH.
            SENSITIVITIES PERFORMED ON CULTURE # [**Numeric Identifier 3702**] FROM [**2141-1-15**].
   [**2141-1-18**] 5:20 am BLOOD CULTURE      Source: Line-aline.
      Blood Culture, Routine (Pending):
   Assessment and Plan
   This is an 83 yom with recent right pontine stroke who was initially in
   the Neuro ICU who was transferred for aspiration. Now s/p PEG placement
   course complicated by aspiration pneumonia
   .
   # Aspiration Pneumonia: After initial clinical improvement and clearing
   of CXR findings of pneumonitis, the pt began spiking fevers and
   developed worsening left lung infiltrates consistent with aspiration
   pneumonia.
   -  Continue Vancomycin and Ceftazidime
   - Bronchoscopy today to obtain culture data and eval airways
   -- f/u sputum cultures, blood cultures
   -- PEG tube placed by surgery with no complications, CXR shows no
   perforation
   -- trend fever curve
   - change sedation to bolus form to lighten sedation
   - continue pulmonary toileting
   .
   # Right Hemi-Pontine Infarction:
   -- f/u Neurology recs
   -- cont asa, statin
   -- cont SSI for glucose control
   -- allow BP to autoregulate with SBP 110-180
    .
   # UTI:  UA with WBC, RBC, Nitrites consistent with possible UTI
   -- cont Ceftaz
   -- f/u urine cultures 1/27 pending, [**1-16**] no growth
   .
   # HTN: hold BP meds as above, allow to autoregulate
   .
   # Anemia:  stabilized, ?from hematuria and IVF.
   .
   # ARF: resolved with fluid, likely from dehydration
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-1-15**] 09:37 AM
   Arterial Line - [**2141-1-15**] 02:00 PM
   18 Gauge - [**2141-1-17**] 01:49 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: H2 blocker
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU level of care

2141-01-18 11:11:00 Physician Attending Progress Note
Chief Complaint: Aspiration PNA
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Stroke, aspiration
   24 Hour Events:
 PEG INSERTION - At [**2141-1-17**] 09:00 AM
 FEVER - 101.8
F - [**2141-1-17**] 02:00 PM
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: vented
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-1-17**] 10:00 AM
   Ceftazidime - [**2141-1-18**] 07:53 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 35 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2141-1-18**] 07:44 AM
   Heparin Sodium (Prophylaxis) - [**2141-1-18**] 07:44 AM
   Other medications:
   simvastatin, allopurinol, bowel regimen
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-18**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.9
C (98.5
   HR: 71 (71 - 100) bpm
   BP: 126/49(74) {109/41(64) - 147/61(89)} mmHg
   RR: 19 (17 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,362 mL
                                                                    156 mL
   PO:
             TF:
   IVF:
                                                                  2,122 mL
                                                                    156 mL
   Blood products:
   Total out:
                                                                  1,290 mL
                                                                    480 mL
   Urine:
                                                                  1,290 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,072 mL
                                                                   -324 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 540 (504 - 673) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 11 cmH2O
   Plateau: 13 cmH2O
   SpO2: 96%
   ABG: 7.41/40/106/24/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) PERRL, pin point, reactive
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all pulses present
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Diminished: at bases)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   183 K/uL
   115 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.8 mEq/L
   28 mg/dL
   114 mEq/L
   144 mEq/L
   29.6 %
   8.8 K/uL
        [image002.jpg]
                             [**2141-1-15**]  08:05 AM
                             [**2141-1-15**]  03:26 PM
                             [**2141-1-16**]  05:07 AM
                             [**2141-1-16**]  11:02 AM
                             [**2141-1-16**]  02:53 PM
                             [**2141-1-16**]  09:46 PM
                             [**2141-1-17**]  04:11 AM
                             [**2141-1-17**]  05:09 AM
                             [**2141-1-18**]  05:20 AM
                             [**2141-1-18**]  05:34 AM
   WBC
   6.9
   8.0
   8.8
   Hct
   33.2
   30.6
   31.2
   30.7
   29.6
   Plt
   166
   167
   183
   Cr
   1.3
   1.1
   1.1
   TropT
   <0.01
   TCO2
   22
   26
   28
   26
   Glucose
   143
   123
   115
   Other labs: PT / PTT / INR:15.2/33.6/1.3, CK / CKMB /
   Troponin-T:234/2/<0.01, ALT / AST:23/28, Alk Phos / T Bili:40/0.7,
   Differential-Neuts:84.4 %, Band:10.0 %, Lymph:11.8 %, Mono:2.9 %,
   Eos:0.7 %, Lactic Acid:1.9 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.5 mg/dL
   Imaging: CXR: increased L perihilar opacities.
   Microbiology: ETT: GPC pairs/clusters, coag pos staph, mrsa in sputum
   Blood: ngtd
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, ASPIRATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 TRANSIENT ISCHEMIC ATTACK (TIA)
   83 yo M admitted with acute CVA now transferred to the ICU with
   respiratory failure in the setting of a likely aspiration. s/p peg.
   Resp Failure:  Aspiration.  Persistent fevers. Abx broadened to Vanc
   and Ceftaz. consider add second GNR [**Doctor Last Name 23**] after bronch today.
     -Pulmonary toilet. If thick secretions may need daily bronch for a
   few days
   - No gag, ? prognosis, ? trach need but will stop sedation completely
   prior to assessment of gag again
   CVA:  Continues on ASA. f/u neuro recs.
   Hemodynamics:  Currently normotensive.  Neurology would prefer SBP's
   110-180.
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   Comments: thru peg when ok to use
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2141-1-15**] 09:37 AM
   Arterial Line - [**2141-1-15**] 02:00 PM
   18 Gauge - [**2141-1-17**] 01:49 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 mins
   Patient is critically ill

2141-01-19 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2141-1-18**] 12:08 PM
 FEVER - 101.5
F - [**2141-1-18**] 08:00 PM
   events:
   - around 11pm, patient had bright red hematuria with clots. Tried CBI
   but catheter clotted quickly. Called urology who recommended a 22g
   Cuday which was placed with some return initially. At this time,
   patient began to hyperventilate and rigor. Unclear etiology. Abdominal
   exam significant for pelvic distention, likely bladder. Sent for CTA
   chest, abd/pelvis with contrast at 2am which revealed a distended
   bladder with the balloon of the catheter in the penile urethra with
   evidence of urethral trauma, as well as the PEG tube likely piercing
   through the transverse colon.
           - general surgery aware and will get KUB to evaluate for
   extravasation once oral contrast reaches colon
           - urology came in and used the cystostocopy to clean out the
   bladder. They have left recs for foley care and flushing.
           - ABG showed respiratory alkalosis with more hypoxia. FiO2
   increased to 0.50. CTA negative for large PE. After procedures
   finished, patient's breathing settled out and he became more
   comfortable. Abdominal exam improved.
           - 500cc bolus at 7am for borderline BP's.
           - patient defervesced around 3am
   - bronchoscopy [**2141-1-18**] revealed thick, aggressive secretions in the
   left mainstem bronchus and LLL bronchi with tracheomalacia extending to
   second generation airways.
   - switched to bolus sedation, mental status improved, but still no gag.
   - increased peep to 8 for better lung expansion
   - right arm pain - on closer inspection seems to have acute gouty flare
   in multiple joints - right elbow left and right MCP's, right IP on
   great toe. Stopped allopurinol and initiated colchicine.
   - PT c/s saw patient, sat him up - did not follow commands as well as
   they expected.
   medication changes:
   - colchicine as above.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-1-18**] 09:00 AM
   Ceftazidime - [**2141-1-19**] 01:00 AM
   Meropenem - [**2141-1-19**] 01:15 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2141-1-18**] 07:44 AM
   Heparin Sodium (Prophylaxis) - [**2141-1-18**] 03:51 PM
   Midazolam (Versed) - [**2141-1-19**] 12:30 AM
   Fentanyl - [**2141-1-19**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-19**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.7
C (99.8
   HR: 91 (71 - 99) bpm
   BP: 110/47(68) {110/45(68) - 174/79(107)} mmHg
   RR: 26 (19 - 37) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    Bladder pressure: 41 (41 - 41) mmHg
   Total In:
                                                                    962 mL
                                                                  1,080 mL
   PO:
   TF:
                                                                    284 mL
                                                                      9 mL
   IVF:
                                                                    438 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  1,415 mL
                                                                      0 mL
   Urine:
                                                                  1,415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -453 mL
                                                                  1,080 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 489 (485 - 545) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 71
   PIP: 19 cmH2O
   SpO2: 92%
   ABG: 7.45/31/64/19/0
   Ve: 4.5 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: No acute distress, Intubated, sedated
   Eyes / Conjunctiva: OP moist, good dentition
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior lung fields), crackles at bases
   Abdominal: soft, but possible tenderness to palpation in RUQ;
   ?involuntary guarding
   Extremities: Right: 1+, Left: 1+; evidence of joint erythema in the
   MCP
s/PIP
s bilaterally, bilateral elbows and right first IP in the
   foot.
   Labs / Radiology
   288 K/uL
   12.2 g/dL
   188 mg/dL
   1.8 mg/dL
   19 mEq/L
   3.5 mEq/L
   34 mg/dL
   110 mEq/L
   144 mEq/L
   32.4 %
   14.4 K/uL
        [image002.jpg]
                             [**2141-1-16**]  02:53 PM
                             [**2141-1-16**]  09:46 PM
                             [**2141-1-17**]  04:11 AM
                             [**2141-1-17**]  05:09 AM
                             [**2141-1-18**]  05:20 AM
                             [**2141-1-18**]  05:34 AM
                             [**2141-1-19**]  12:41 AM
                             [**2141-1-19**]  12:47 AM
                             [**2141-1-19**]  04:36 AM
                             [**2141-1-19**]  04:43 AM
   WBC
   8.0
   8.8
   14.4
   Hct
   30.6
   31.2
   30.7
   29.6
   32.0
   32.4
   Plt
   167
   183
   288
   Cr
   1.1
   1.1
   1.0
   1.8
   TCO2
   28
   26
   22
   22
   Glucose
   123
   115
   157
   188
   Other labs: PT / PTT / INR:14.9/31.5/1.3, CK / CKMB /
   Troponin-T:234/2/<0.01, ALT / AST:23/28, Alk Phos / T Bili:40/0.7,
   Differential-Neuts:84.4 %, Band:10.0 %, Lymph:11.8 %, Mono:2.9 %,
   Eos:0.7 %, D-dimer:[**Numeric Identifier 3717**] ng/mL, Fibrinogen:1154 mg/dL, Lactic Acid:2.7
   mmol/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Microbiology:
    [**2141-1-17**] 9:37 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2141-1-17**]):
         [**10-15**] PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS
   [**2141-1-16**] 4:10 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2141-1-16**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
      RESPIRATORY CULTURE (Preliminary):
         ? OROPHARYNGEAL FLORA.
         STAPH AUREUS COAG +.    SPARSE GROWTH.
            SENSITIVITIES PERFORMED ON CULTURE # [**Numeric Identifier 3702**] FROM [**2141-1-15**].
   [**2141-1-18**] 5:20 am BLOOD CULTURE      Source: Line-aline.
      Blood Culture, Routine (Pending):
   Imaging:
   CTA chest/CT abd/pelvis -
                      Preliminary Report !! WET READ !!
   No central pe or dissection. Evaluation for subsegmental pe limited
   from
   motion. Significant left lower lobe collapse. Patient could benefit
   from
   bronchoscopy if not already performed. Traumatic foley placement with
   ballon
   inflated in penile urethera. Hyperattenuating collection within the
   bladder
   likely relates to hematoma. G-tube placed at bedside traverses through
   transverse colon before entering the stomach. Pleural effusions.
   cholelithiasis.
   KUB
 read pending
   Assessment and Plan
   This is an 83 yom with recent right pontine stroke who was initially in
   the Neuro ICU who was transferred for aspiration. Now s/p PEG placement
   course complicated by aspiration pneumonia, now with new foley trauma,
   acute renal failure, and peg misplacement leading to respiratory
   distress and relative hypotension.
   .
   # Relative hypotension, tachypnea: overnight, patient
s bladder
   distention likely caused significant distress. After urology flushed
   bladder, tachypnea settled out. ?initial respiratory acidosis, early
   sepsis. Findings of peg through transverse colon are concerning for new
   source of bacterial seeding, however general surgery feels that if no
   leak then this is safe to keep in place. CTA negative for PE. No
   obvious abscess or collection on abd CT from last night. There was some
   concern with the profuse urethral bleeding that he was in DIC/sepsis,
   but DIC labs were more c/w acute inflammation.
   -          KUB to look for extravasation
   -          General Surgery recs
   -          Serial abdominal exams
   -          Follow lactate
   -          IVF, blood products per early goal directed therapy
   -          Will need CVL today; once in place obtain CvO2 sat, maintain
   MAP>65, CVP 10-12
   -          Vanco/meropenem
   -          Follow up official read of CT abd/pelvis and KUB
   .
   # Aspiration Pneumonia/respiratory failure: After initial clinical
   improvement and clearing of CXR findings of pneumonitis, the pt began
   spiking fevers and developed worsening left lung infiltrates consistent
   with aspiration pneumonia.
   -  Continue Vancomycin and Meropenem
   -- Bronchoscopy yesterday found LLL collapse; cultures are pending
   microorganisms on gram stain
   -- f/u sputum cultures, blood cultures
   -- trend fever curve
   - changed sedation to bolus form to lighten sedation, but overnight had
   to increase again in the acute setting
   - continue pulmonary toileting
   .
   # GU
 significant urethral trauma ?secondary to foley trauma, although
   initial bright red blood was seemingly unprovoked. Appreciate urology
   recs. Continue to flush as advised.
   # Right Hemi-Pontine Infarction:
   -- f/u Neurology recs
   -- cont asa, statin
   -- cont SSI for glucose control
   -- allow BP to autoregulate with SBP 110-180
    .
   # UTI:  UA with WBC, RBC, Nitrites consistent with possible UTI
   -- cont meropenem
   -- urine cultures 1/27 no growth, [**1-16**] no growth
   .
   # HTN: hold BP meds as above, allow to autoregulate
   .
   # Anemia:  stabilized, ?from hematuria and IVF.
   .
   # ARF: initially resolved with fluid, likely from dehydration; now
   creatinine has bumped again in the acute setting. Possibly a
   combination of postrenal obstruction from clots and back bleeding plus
   insensible losses leading to prerenal azotemia. Creatinine recheck this
   morning is already trending downwards.
   -          continue IVF
   -          ensure foley patency
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-1-15**] 02:00 PM
   18 Gauge - [**2141-1-19**] 01:14 AM
   Prophylaxis:
   DVT: heparin subcut
   Stress ulcer: H2 blocker
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care

2141-01-19 10:21:00 Physician Attending Progress Note
Chief Complaint: LLL pna
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2141-1-18**] 12:08 PM
 FEVER - 101.5
F - [**2141-1-18**] 08:00 PM
   11pm: hematuria, bladder irrigation, 3 way catheter, 20 french
   catheter, rigors, abd distention, blood from foley, CTA
   chest/abd/pelvis: urethral trauma, bladder filled with blood:
   penile-urethral truama with back bleeding into bladder. also incidental
   finding of peg tube traversing thru transverse colon. Seen by urology
   and surgical services overnight. KUB epnding to check for extravasation
   of contract from colon. Cystoscopy done to clean out bladder. Saw
   urethral trauma. CTA neg for PE. ABG resp alkalosis with hypoxia. FiO2
   50%. Getting fluid boluses for mild hypotension. Fever deferevesed
   overnight. alos noted to have multiple joint erythme and inflammation
   overnight, suggestive of gout flare, stopped allopurinol, got dose of
   colchicine. Disimpacted overnight.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-1-18**] 09:00 AM
   Ceftazidime - [**2141-1-19**] 01:00 AM
   Meropenem - [**2141-1-19**] 01:15 AM
   Metronidazole - [**2141-1-19**] 08:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-1-18**] 03:51 PM
   Midazolam (Versed) - [**2141-1-19**] 12:30 AM
   Fentanyl - [**2141-1-19**] 01:00 AM
   Famotidine (Pepcid) - [**2141-1-19**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-19**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.8
C (100
   HR: 85 (72 - 99) bpm
   BP: 93/51(62) {93/51(62) - 93/51(62)} mmHg
   RR: 26 (19 - 37) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   Bladder pressure: 41 (41 - 41) mmHg
   Total In:
                                                                    962 mL
                                                                  3,479 mL
   PO:
   TF:
                                                                    284 mL
                                                                      9 mL
   IVF:
                                                                    438 mL
                                                                  2,569 mL
   Blood products:
   Total out:
                                                                  1,415 mL
                                                                    200 mL
   Urine:
                                                                  1,415 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -453 mL
                                                                  3,279 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 583 (485 - 583) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 71
   PIP: 18 cmH2O
   SpO2: 94%
   ABG: 7.45/31/66/19/0
   Ve: 14 L/min
   PaO2 / FiO2: 132
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all pulses present
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Absent : bases R> L, rest clear)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Mutiple tender erythematous joints
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   12.2 g/dL
   288 K/uL
   188 mg/dL
   1.8 mg/dL
   19 mEq/L
   3.5 mEq/L
   34 mg/dL
   110 mEq/L
   144 mEq/L
   32.4 %
   14.4 K/uL
        [image002.jpg]
                             [**2141-1-16**]  09:46 PM
                             [**2141-1-17**]  04:11 AM
                             [**2141-1-17**]  05:09 AM
                             [**2141-1-18**]  05:20 AM
                             [**2141-1-18**]  05:34 AM
                             [**2141-1-19**]  12:41 AM
                             [**2141-1-19**]  12:47 AM
                             [**2141-1-19**]  04:36 AM
                             [**2141-1-19**]  04:43 AM
                             [**2141-1-19**]  07:06 AM
   WBC
   8.0
   8.8
   14.4
   Hct
   31.2
   30.7
   29.6
   32.0
   32.4
   Plt
   167
   183
   288
   Cr
   1.1
   1.1
   1.0
   1.8
   TCO2
   28
   26
   22
   22
   22
   Glucose
   123
   115
   157
   188
   Other labs: PT / PTT / INR:14.9/31.5/1.3, CK / CKMB /
   Troponin-T:234/2/<0.01, ALT / AST:23/28, Alk Phos / T Bili:40/0.7,
   Differential-Neuts:84.4 %, Band:10.0 %, Lymph:11.8 %, Mono:2.9 %,
   Eos:0.7 %, D-dimer:[**Numeric Identifier 3717**] ng/mL, Fibrinogen:1154 mg/dL, Lactic Acid:2.7
   mmol/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, ASPIRATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 TRANSIENT ISCHEMIC ATTACK (TIA)
   83 yo M admitted with acute CVA now transferred to the ICU with
   respiratory failure in the setting of a likely aspiration. s/p peg.
   Fever. Dense LL consolidation.
   fever, leukocytosis, lactic acidosis:
   DD: LLL consolidation, peg thru transverse colon, gout, hematuria
   Hematuria/urethral trauma:
   sq heparin, ASA
   f/u urology recs reg bladder wash
   Peg traversing thru transverse colon: surgery following, on meropenem.
   check KUB
   Hypoxemia: increase peep, f/u CXR
   LLL infiltrate: s/p bronch yesyerday: 2+ polys, rest pend. On
   vanc/meropenem...has staph in previous sputum...f/u Vanc level
   Gout flare: colchicine
   Hypotension: mild, responds to fluid, repeat CBC, transfuse if needed.
   Neurology would prefer SBP's 110-180.
   Bicarb drop from 28 to 22: lactic acidosis, mild sepsis: fluid
   optimization, f/u anion gap..will likely need central line today/
   New renal failure: Cr 1 to 1.8: contrast, obstructive, insensible
   losses...all being addressed.
   No gag, ? prognosis, ? trach need but will stop sedation completely
   prior to assessment of gag again
    CVA:  Continues on ASA. f/u neuro recs.
    Rest of plan per resident note.
   ICU Care
   Nutrition:
   Comments: Held for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2141-1-15**] 02:00 PM
   18 Gauge - [**2141-1-19**] 01:14 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2141-01-20 07:55:00 Physician Resident Progress Note
Chief Complaint: Denied pain yesterday on daily awakening
   24 Hour Events:
   Continues to have clots through foley
   Blood pressure remained stable, so CVL deferred
   Received 3 units of pRBC's
   Abdominal exam stable
   Fever curve trending down
   Received one more dose colchicine last night
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2141-1-19**] 01:00 AM d/c
   Metronidazole - [**2141-1-19**] 08:50 AM
 day 1
   Meropenem - [**2141-1-19**] 08:06 PM d/c
d [**2141-1-20**]
   Vancomycin - [**2141-1-19**] 09:00 PM
 day 6
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2141-1-19**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2141-1-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies pain today
   Flowsheet Data as of  [**2141-1-20**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100
   HR: 78 (70 - 93) bpm
   BP: 154/69(101) {101/44(63) - 154/69(101)} mmHg
   RR: 26 (23 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                  5,775 mL
                                                                     30 mL
   PO:
                  TF:
                                                                      9 mL
   IVF:
                                                                  4,016 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,030 mL
                                                                    570 mL
   Urine:
                                                                  1,030 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,745 mL
                                                                   -540 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 518 (407 - 637) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.44/33/126/21/0
   Ve: 15.8 L/min
   PaO2 / FiO2: 315
   Physical Examination
   General Appearance: No acute distress, Intubated, opens eyes to voice,
   can answer yes/no questions
   Eyes / Conjunctiva: OP moist
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior lung fields), left lower lobe rhonchi
   Abdominal: soft, NT/ND +BS
   Extremities: Right: 1+, Left: 1+; evidence of joint erythema in the
   MCP
s/PIP
s bilaterally, bilateral elbows and right first IP in the
   foot, but improved from yesterday.
   Continues to have gross hematuria.
   Labs / Radiology
   209 K/uL
   11.3 g/dL
   152 mg/dL
   1.3 mg/dL
   21 mEq/L
   3.9 mEq/L
   33 mg/dL
   114 mEq/L
   144 mEq/L
   30.8 %
   9.6 K/uL
        [image002.jpg]
                             [**2141-1-19**]  04:43 AM
                             [**2141-1-19**]  07:06 AM
                             [**2141-1-19**]  10:30 AM
                             [**2141-1-19**]  10:43 AM
                             [**2141-1-19**]  04:10 PM
                             [**2141-1-19**]  04:39 PM
                             [**2141-1-19**]  06:20 PM
                             [**2141-1-19**]  08:01 PM
                             [**2141-1-20**]  12:52 AM
                             [**2141-1-20**]  04:25 AM
   WBC
   13.4
   9.6
   Hct
   26.7
   30.9
   31.1
   29.3
   30.8
   Plt
   200
   209
   Cr
   1.3
   TCO2
   22
   22
   23
   21
   23
   Glucose
   152
   Other labs: PT / PTT / INR:14.9/31.5/1.3, CK / CKMB /
   Troponin-T:234/2/<0.01, ALT / AST:23/28, Alk Phos / T Bili:40/0.7,
   Differential-Neuts:84.4 %, Band:10.0 %, Lymph:11.8 %, Mono:2.9 %,
   Eos:0.7 %, D-dimer:[**Numeric Identifier 3717**] ng/mL, Fibrinogen:1154 mg/dL, Lactic Acid:1.8
   mmol/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   MICRO:
   [1][**2141-1-20**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [2][**2141-1-18**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY; FUNGAL
   CULTURE-PRELIMINARY
   [3][**2141-1-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [4][**2141-1-17**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [5][**2141-1-17**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {STAPH AUREUS COAG +}
   [6][**2141-1-17**]
   URINE
   URINE CULTURE-FINAL
   [7][**2141-1-17**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [8][**2141-1-16**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [9][**2141-1-16**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [10][**2141-1-16**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {STAPH AUREUS COAG +}
   [11][**2141-1-16**]
   URINE
   URINE CULTURE-FINAL
   [12][**2141-1-16**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [13][**2141-1-15**]
   URINE
   URINE CULTURE-FINAL
   [14][**2141-1-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [15][**2141-1-15**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {STAPH AUREUS COAG +}
SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STAPH AUREUS COAG +
                             |
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
PENICILLIN G---------- =>0.5 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------   <=1 S
   [16][**2141-1-12**]
   URINE
   URINE CULTURE-FINAL
   [17][**2141-1-12**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [18][**2141-1-12**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [19][**2141-1-11**]
   MRSA SCREEN
   MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN RESISTANT STAPH AUREUS}
   Assessment and Plan
   This is an 83 yom with recent right pontine stroke who was initially in
   the Neuro ICU who was transferred for aspiration. Now s/p PEG placement
   course complicated by aspiration pneumonia, now with new foley trauma,
   acute renal failure, and peg misplacement leading to respiratory
   distress and relative hypotension.
   .
   # Relative hypotension, tachypnea: likely secondary to pain from
   urethral trauma and marked bladder distention. Has done well throughout
   the day yesterday and overnight. Pressures held, so CVL deferred.
   Abdominal exams were stable.  Peg tube per surgery is okay to use. No
   evidence of extravasation on CT or subsequent KUB.
   .
   # Aspiration Pneumonia/respiratory failure: After initial clinical
   improvement and clearing of CXR findings of pneumonitis, the pt began
   spiking fevers and developed worsening left lung infiltrates consistent
   with aspiration pneumonia.  Sputum is growing MRSA repeatedly. No need
   to keep meropenem on for now, will switch to cipro/flagyl today. Move
   to extubate if urology not planning any procedures.
   -- SBT with attempt to extubate this afternoon.
   -- Continue Vancomycin, cipro, flagyl until [**1-25**].
   -- CXR today shows clearing of the LLL
   -- f/u sputum cultures, blood cultures
   -- trend fever curve
   -- continue to keep unsedated, bolus as necessary
   -- continue pulmonary toilet
   .
   # Persistent Fevers: unclear. Sputum persistenly growing MRSA. Could
   also be secondary to acute gouty flare.
   .
   # Coffee Grounds from OG tube: ppi [**Hospital1 **], likely stress ulceration.
   .
   # GU
 significant urethral trauma ?secondary to foley trauma, although
   initial bright red blood was seemingly unprovoked. Appreciate urology
   recs. Continue to flush as advised.
   .
   # ARF: initially resolved with fluid, likely from dehydration; now
   creatinine has bumped again in the acute setting. Possibly a
   combination of postrenal obstruction from clots and back bleeding plus
   insensible losses leading to prerenal azotemia. Creatinine recheck this
   morning is already trending downwards.
   -          continue IVF
   -          ensure foley patency
   .
   # Right Hemi-Pontine Infarction:
   -- f/u Neurology recs
   -- cont asa, statin
   -- cont SSI for glucose control
   -- allow BP to autoregulate with SBP 110-180
    .
   # UTI:  UA with WBC, RBC, Nitrites consistent with possible UTI
   -- cont meropenem
   -- urine cultures 1/27 no growth, [**1-16**] no growth
   .
   # HTN: hold BP meds as above, allow to autoregulate
   .
   # Anemia: needed 3 units overnight from GU bleed. Continue to monitor,
   recheck tonight.
   ICU Care
   Nutrition: tubefeeds at goal
   Glycemic Control:
   Lines: in for picc line
   Arterial Line - [**2141-1-15**] 02:00 PM
   18 Gauge - [**2141-1-19**] 01:14 AM
   Prophylaxis:
   DVT: heparin subcut
   Stress ulcer: ppi [**Hospital1 **]
   VAP:  vap bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22,640,400,50,50,1);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22,640,400,50,50,1);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_17%22,640,400,50,50,1);
  18. JavaScript:parent.POPUP(self,%22_WEBTAG=_18%22,640,400,50,50,1);
  19. JavaScript:parent.POPUP(self,%22_WEBTAG=_19%22,640,400,50,50,1);

2141-01-20 08:27:00 Physician Attending Progress Note
Chief Complaint: hematuria, aspiration pna, stroke
   HPI:
   24 Hour Events:
   still has hematuria, got 3 PRBC
   Coffee grounds from peg tube
   vitals stable
   abd exam stable
   started feeds thru peg tube, surgery team oked it inspite of peg
   traversing thru colon
   gout improved
   fever improved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-1-19**] 09:00 PM (d6)
   Meropenem - [**2141-1-20**] 08:24 AM (d2)
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2141-1-19**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2141-1-20**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   none
   Flowsheet Data as of  [**2141-1-20**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 78 (70 - 85) bpm
   BP: 139/56(86) {101/44(63) - 154/69(101)} mmHg
   RR: 27 (23 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
           Total In:
                                                                  5,775 mL
                                                                    505 mL
   PO:
           TF:
                                                                      9 mL
   IVF:
                                                                  4,016 mL
                                                                    100 mL
   Blood products:
                                                                    700 mL
                                                                    375 mL
   Total out:
                                                                  1,030 mL
                                                                    715 mL
   Urine:
                                                                  1,030 mL
                                                                    690 mL
   NG:
   25 mL
   Stool:
   Drains:
   Balance:
                                                                  4,745 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 518 (407 - 637) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.44/33/126/23/0
   Ve: 15.8 L/min
   PaO2 / FiO2: 315
   Physical Examination
   General Appearance: Overweight / Obese, responsive to verbal commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, minimal gag
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: all pulses present
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Absent : bases R> L, rest clear)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended. Foley
   with dark blood
   Extremities: Mutiple tender erythematous joints, but improved since
   yesterday
   Neurologic: Responds to all commands, wide awake.
   Labs / Radiology
   11.3 g/dL
   209 K/uL
   128 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.8 mEq/L
   35 mg/dL
   115 mEq/L
   147 mEq/L
   30.8 %
   9.6 K/uL
        [image002.jpg]
                             [**2141-1-19**]  04:43 AM
                             [**2141-1-19**]  07:06 AM
                             [**2141-1-19**]  10:30 AM
                             [**2141-1-19**]  10:43 AM
                             [**2141-1-19**]  04:10 PM
                             [**2141-1-19**]  04:39 PM
                             [**2141-1-19**]  06:20 PM
                             [**2141-1-19**]  08:01 PM
                             [**2141-1-20**]  12:52 AM
                             [**2141-1-20**]  04:25 AM
   WBC
   13.4
   9.6
   Hct
   26.7
   30.9
   31.1
   29.3
   30.8
   Plt
   200
   209
   Cr
   1.3
   1.0
   TCO2
   22
   22
   23
   21
   23
   Glucose
   152
   128
   Other labs: PT / PTT / INR:14.9/31.5/1.3, CK / CKMB /
   Troponin-T:234/2/<0.01, ALT / AST:23/28, Alk Phos / T Bili:40/0.7,
   Differential-Neuts:84.4 %, Band:10.0 %, Lymph:11.8 %, Mono:2.9 %,
   Eos:0.7 %, D-dimer:[**Numeric Identifier 3717**] ng/mL, Fibrinogen:1154 mg/dL, Lactic Acid:1.8
   mmol/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.1 mg/dL
   CXR: LLL must better aerated.
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, ASPIRATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 TRANSIENT ISCHEMIC ATTACK (TIA)
   83 yo M admitted with acute CVA now transferred to the ICU with
   respiratory failure in the setting of a likely aspiration. s/p peg
   which traverses colon. Fever improved. Dense LL consolidation
   resolving. Severe hematuria and now with coffee grounds this am.
   Resp/vent: CXR much improved. Wide awake. SBT today. Spu shows mrsa, on
   staph. BAL neg. Will extubate if no plans for OR and have had code
   status re-addressed
   UGI bleed: switch H2 blocker to ppi [**Hospital1 **], follow Hct. On ASA 81. GI
   consult if opens up.
   Hematuria/urethral trauma: Bladder hematoma
   cont sq heparin, ASA
   f/u urology recs reg bladder flushes
   Hypotension: resolved with blood transfusions. Neurology would prefer
   SBP's 110-180.
   Peg traversing thru transverse colon: surgery said ok to feed, on
   meropenem.
switch to Cipro/Flagyl since no GNRs isolated from
   anywhere.
   Gout flare: improved on colchicine
   Renal failure: resolved
   CVA:  Continues on ASA. f/u neuro recs.
    Rest of plan per resident note.
   ICU Care
   Nutrition:
   Comments: Held for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2141-1-15**] 02:00 PM
   18 Gauge - [**2141-1-19**] 01:14 AM
   picc consult
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker: sitch to ppi [**Hospital1 **]
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code but family meeting today to apprise regarding
   his condition. They are inclined to make him DNR after speaking with
   his wife [**Name (NI) 288**] tonight
   Disposition :ICU
   Total time spent:  40 mins
   Patient is critically ill

2141-01-21 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2141-1-20**] 12:00 PM
   one set from a-line and one perpherial
 SPUTUM CULTURE - At [**2141-1-20**] 12:00 PM
 FEVER - 101.6
F - [**2141-1-20**] 12:00 PM
   No new surgery recs
   PICC not placed [**1-23**] fever, will reassess today.  Urology consulted for
   hematuria.  Placed 3 way foley, now on CBI.
   HCT stable
   Is and Os inaccurate overnight [**1-23**] incontinence from foley during
   clotting of foley catheter as well as CBI
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2141-1-19**] 01:00 AM
   Meropenem - [**2141-1-20**] 08:24 AM
   Ciprofloxacin - [**2141-1-20**] 11:21 AM
   Metronidazole - [**2141-1-21**] 02:00 AM
   Vancomycin - [**2141-1-21**] 03:17 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-1-20**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-21**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38
C (100.4
   HR: 64 (64 - 79) bpm
   BP: 156/60(93) {126/52(77) - 167/72(105)} mmHg
   RR: 28 (21 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,362 mL
                                                                    300 mL
   PO:
             TF:
   IVF:
                                                                  1,707 mL
                                                                    300 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,785 mL
                                                                    400 mL
   Urine:
                                                                  1,760 mL
                                                                    400 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    577 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (402 - 559) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.48/32/111/23/0
   Ve: 15.5 L/min
   PaO2 / FiO2: 277
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   209 K/uL
   11.7 g/dL
   141 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.3 mEq/L
   31 mg/dL
   115 mEq/L
   147 mEq/L
   32.5 %
   9.6 K/uL
        [image002.jpg]
                             [**2141-1-19**]  04:10 PM
                             [**2141-1-19**]  04:39 PM
                             [**2141-1-19**]  06:20 PM
                             [**2141-1-19**]  08:01 PM
                             [**2141-1-20**]  12:52 AM
                             [**2141-1-20**]  04:25 AM
                             [**2141-1-20**]  10:58 AM
                             [**2141-1-20**]  11:34 AM
                             [**2141-1-20**]  07:25 PM
                             [**2141-1-21**]  03:15 AM
   WBC
   9.6
   9.6
   Hct
   30.9
   31.1
   29.3
   30.8
   31.6
   30.7
   32.5
   Plt
   209
   209
   Cr
   1.0
   1.0
   TCO2
   21
   23
   25
   Glucose
   128
   141
   Other labs: PT / PTT / INR:16.6/30.9/1.5, CK / CKMB /
   Troponin-T:234/2/<0.01, ALT / AST:23/28, Alk Phos / T Bili:40/0.7,
   Differential-Neuts:84.4 %, Band:10.0 %, Lymph:11.8 %, Mono:2.9 %,
   Eos:0.7 %, D-dimer:[**Numeric Identifier 3717**] ng/mL, Fibrinogen:1154 mg/dL, Lactic Acid:1.8
   mmol/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   This is an 83 yom with recent right pontine stroke who was initially in
   the Neuro ICU who was transferred for aspiration. Now s/p PEG placement
   course complicated by aspiration pneumonia, now with new foley trauma,
   acute renal failure, and peg misplacement leading to respiratory
   distress and relative hypotension.
   .
   # Relative hypotension, tachypnea: likely secondary to pain from
   urethral trauma and marked bladder distention. Has done well throughout
   the day yesterday and overnight. Pressures held, so CVL deferred.
   Abdominal exams were stable.  Peg tube per surgery is okay to use. No
   evidence of extravasation on CT or subsequent KUB.
   .
   # Aspiration Pneumonia/respiratory failure: After initial clinical
   improvement and clearing of CXR findings of pneumonitis, the pt began
   spiking fevers and developed worsening left lung infiltrates consistent
   with aspiration pneumonia.  Sputum is growing MRSA repeatedly. No need
   to keep meropenem on for now, will switch to cipro/flagyl today. Move
   to extubate if urology not planning any procedures.
   -- SBT with attempt to extubate this afternoon.
   -- Continue Vancomycin, cipro, flagyl until [**1-25**].
   -- CXR today shows clearing of the LLL
   -- f/u sputum cultures, blood cultures
   -- trend fever curve
   -- continue to keep unsedated, bolus as necessary
   -- continue pulmonary toilet
   .
   # Persistent Fevers: unclear. Sputum persistenly growing MRSA. Could
   also be secondary to acute gouty flare.
   .
   # Coffee Grounds from OG tube: ppi [**Hospital1 **], likely stress ulceration.
   .
   # GU
 significant urethral trauma ?secondary to foley trauma, although
   initial bright red blood was seemingly unprovoked. Appreciate urology
   recs. Continue to flush as advised.
   .
   # ARF: initially resolved with fluid, likely from dehydration; now
   creatinine has bumped again in the acute setting. Possibly a
   combination of postrenal obstruction from clots and back bleeding plus
   insensible losses leading to prerenal azotemia. Creatinine recheck this
   morning is already trending downwards.
   -          continue IVF
   -          ensure foley patency
   .
   # Right Hemi-Pontine Infarction:
   -- f/u Neurology recs
   -- cont asa, statin
   -- cont SSI for glucose control
   -- allow BP to autoregulate with SBP 110-180
    .
   # UTI:  UA with WBC, RBC, Nitrites consistent with possible UTI
   -- cont meropenem
   -- urine cultures 1/27 no growth, [**1-16**] no growth
   .
   # HTN: hold BP meds as above, allow to autoregulate
   .
   # Anemia: needed 3 units overnight from GU bleed. Continue to monitor,
   recheck tonight.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-1-15**] 02:00 PM
   18 Gauge - [**2141-1-19**] 01:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-01-21 09:37:00 Physician Attending Progress Note
Chief Complaint: CVA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 year old man who presented with pontine stroke, s/p lysis, now in
   the MICU with respiratory distress [**1-23**] witnessed aspiration. Course c/b
   trans-colonic PEG tube. Currently on vanc/cipro/flagyl
   24 Hour Events:
 BLOOD CULTURED - At [**2141-1-20**] 12:00 PM
   one set from a-line and one perpherial
 SPUTUM CULTURE - At [**2141-1-20**] 12:00 PM
 FEVER - 101.6
F - [**2141-1-20**] 12:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2141-1-19**] 01:00 AM
   Meropenem - [**2141-1-20**] 08:24 AM
   Ciprofloxacin - [**2141-1-20**] 11:21 AM
   Metronidazole - [**2141-1-21**] 02:00 AM
   Vancomycin - [**2141-1-21**] 03:17 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-21**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.6
C (99.6
   HR: 69 (64 - 79) bpm
   BP: 159/61(95) {126/52(77) - 167/72(105)} mmHg
   RR: 29 (21 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,362 mL
                                                                    400 mL
   PO:
             TF:
   IVF:
                                                                  1,707 mL
                                                                    300 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,785 mL
                                                                    400 mL
   Urine:
                                                                  1,760 mL
                                                                    400 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    577 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 490 (402 - 559) mL
   PS : 5 cmH2O
   RR (Spontaneous): 34
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 6 cmH2O
   SpO2: 94%
   ABG: 7.48/32/111/23/0
   Ve: 16.7 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l upper zones).
   Very week cough post extubation.
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   11.7 g/dL
   209 K/uL
   141 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.3 mEq/L
   31 mg/dL
   115 mEq/L
   147 mEq/L
   32.5 %
   9.6 K/uL
        [image002.jpg]
                             [**2141-1-19**]  04:10 PM
                             [**2141-1-19**]  04:39 PM
                             [**2141-1-19**]  06:20 PM
                             [**2141-1-19**]  08:01 PM
                             [**2141-1-20**]  12:52 AM
                             [**2141-1-20**]  04:25 AM
                             [**2141-1-20**]  10:58 AM
                             [**2141-1-20**]  11:34 AM
                             [**2141-1-20**]  07:25 PM
                             [**2141-1-21**]  03:15 AM
   WBC
   9.6
   9.6
   Hct
   30.9
   31.1
   29.3
   30.8
   31.6
   30.7
   32.5
   Plt
   209
   209
   Cr
   1.0
   1.0
   TCO2
   21
   23
   25
   Glucose
   128
   141
   Other labs: PT / PTT / INR:16.6/30.9/1.5, CK / CKMB /
   Troponin-T:234/2/<0.01, ALT / AST:23/28, Alk Phos / T Bili:40/0.7,
   Differential-Neuts:84.4 %, Band:10.0 %, Lymph:11.8 %, Mono:2.9 %,
   Eos:0.7 %, D-dimer:[**Numeric Identifier 3717**] ng/mL, Fibrinogen:1154 mg/dL, Lactic Acid:1.8
   mmol/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   83 year old man with CVA, course complicated by aspiration pneumonia.
   Plan as per resident note. Briefly, doing well on SBT this morning.
   Will check gas and clarify wishes on re-intubation
   prior to attempt at extubation today. Persistent fever on appropriate
   abx for MRSA pneumonia. also covered for intraabdominal source given
   PEG complication, but surgery following with no indication for
   intervention and no imaging or exam evidence of peritonitis. Will check
   c. diff today, f/u cultures and continue current abx. Further plans as
   per resident note.
   ICU Care
   Nutrition:
   Comments: Start tube feed today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2141-1-15**] 02:00 PM
   18 Gauge - [**2141-1-19**] 01:14 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2141-01-22 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Cerebrovascular accident, respiratory failure
   24 Hour Events:
   - Extubated
   - Started metoprolol for hypertension (on atenolol as outpatient)
   - Started tube feeds
   - Changed code status to DNR/DNI per patient's wishes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2141-1-20**] 08:24 AM
   Vancomycin - [**2141-1-21**] 08:00 PM
   Ciprofloxacin - [**2141-1-22**] 12:00 AM
   Metronidazole - [**2141-1-22**] 01:55 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-1-21**] 09:40 PM
   Heparin Sodium (Prophylaxis) - [**2141-1-21**] 09:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-22**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 83 (64 - 83) bpm
   BP: 170/66(103) {140/55(84) - 177/80(111)} mmHg
   RR: 30 (21 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,938 mL
                                                                    705 mL
   PO:
             TF:
                                                                    199 mL
                                                                    279 mL
   IVF:
                                                                  1,389 mL
                                                                    366 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    870 mL
   Urine:
                                                                  1,950 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -12 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 490 (490 - 490) mL
   PS : 5 cmH2O
   RR (Spontaneous): 34
   PEEP: 0 cmH2O
   FiO2: 60%
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.55/27/71/21/2
   Ve: 16.7 L/min
   PaO2 / FiO2: 118
   Physical Examination
   General Appearance: No acute distress, opens eyes to voice, can answer
   yes/no questions
   Eyes / Conjunctiva: OP moist
   Head, Ears, Nose, Throat: Normocephalic,
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior lung fields), left lower lobe rhonchi
   Abdominal: soft, NT/ND +BS +PEG tube
   Extremities: Right: 1+, Left: 1+; evidence of joint erythema in the
   MCP
s/PIP
s bilaterally, bilateral elbows and right first IP in the
   foot, but improved from yesterday.
   Continues to have hematuria.
   Labs / Radiology
   245 K/uL
   12.7 g/dL
   140 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.2 mEq/L
   26 mg/dL
   114 mEq/L
   146 mEq/L
   34.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2141-1-19**]  08:01 PM
                             [**2141-1-20**]  12:52 AM
                             [**2141-1-20**]  04:25 AM
                             [**2141-1-20**]  10:58 AM
                             [**2141-1-20**]  11:34 AM
                             [**2141-1-20**]  07:25 PM
                             [**2141-1-21**]  03:15 AM
                             [**2141-1-21**]  10:28 AM
                             [**2141-1-22**]  03:44 AM
                             [**2141-1-22**]  04:37 AM
   WBC
   9.6
   9.6
   10.7
   Hct
   31.1
   29.3
   30.8
   31.6
   30.7
   32.5
   34.6
   Plt
   [**Telephone/Fax (3) 3795**]
   Cr
   1.0
   1.0
   0.9
   TCO2
   25
   23
   24
   Glucose
   128
   141
   140
   Other labs: PT / PTT / INR:16.4/31.4/1.5, CK / CKMB /
   Troponin-T:234/2/<0.01, ALT / AST:23/28, Alk Phos / T Bili:40/0.7,
   Differential-Neuts:84.4 %, Band:10.0 %, Lymph:11.8 %, Mono:2.9 %,
   Eos:0.7 %, D-dimer:[**Numeric Identifier 3717**] ng/mL, Fibrinogen:1154 mg/dL, Lactic Acid:1.8
   mmol/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   This is an 83 yom with recent right pontine stroke who was initially in
   the Neuro ICU who was transferred for aspiration. Now s/p PEG placement
   course complicated by aspiration pneumonia, now with new foley trauma,
   acute renal failure, and peg misplacement leading to respiratory
   distress and relative hypotension now extubated and clinically
   improving.
   .
   # Aspiration Pneumonia/respiratory failure: After initial clinical
   improvement and clearing of CXR findings of pneumonitis, the pt began
   spiking fevers and developed worsening left lung infiltrates consistent
   with aspiration pneumonia.  Cont Vanco for MRSA in sputum.  Patient was
   successfully extubated yesterday. Doing well.
   -- Continue Vancomycin until [**1-25**].
   -- f/u cultures
   -- trend fever curve - improving
   -- continue aggressive pulmonary toilet and aspiration precautions. Pt
   at high risk of recurrent aspiration events given recent stroke
   .
   # Persistent Fevers: Sputum persistenly growing MRSA, on Vancomycin,
   however fevers also occurred in setting of significant acute gouty
   flare, improving on colchicine. Fever trending down. Cont abx as above
   .
   # Coffee Grounds from OG tube: ppi [**Hospital1 **], likely stress ulceration.  No
   coffee grounds X24hrys and HCT stable
   .
   # Hematuria:  patient will hematoma in bladder from foley trauma.
   Urology consulted following and recommended CBI.  Urine is now clearing
   but has thick sediment and occasional clots, will continue CBI
   .
   # PEG placement
 PEG found to traverse through transverse colon
   incidentally, on CT obtained to eval pelvis for hematuria. Surgery
   aware, rec nothing to do at this time. No evidence of extravasation of
   contrast on xray or CT. Given fevers and this finding pt placed on
   cipro/flagyl for course planned to end on [**1-25**].
   .
   # ARF: resolved
   - continue IVF
   -  ensure foley patency
   .
   # Right Hemi-Pontine Infarction:
   -- f/u Neurology recs
   -- cont asa, statin
   -- cont SSI for glucose control
   -- restarted metoprolol yesterday
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2141-1-22**] 01:02 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2141-1-15**] 02:00 PM
   PICC Line - [**2141-1-21**] 09:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2141-01-22 09:31:00 Physician Attending Progress Note
Chief Complaint: Rspiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 year old man with R pontine stroke, course c/b by aspiration
   pneumonia and respiratory failure. Extubated yesterday.
   24 Hour Events:
 PICC LINE - START [**2141-1-21**] 09:00 AM
 INVASIVE VENTILATION - STOP [**2141-1-21**] 11:28 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2141-1-20**] 08:24 AM
   Vancomycin - [**2141-1-21**] 08:00 PM
   Ciprofloxacin - [**2141-1-22**] 12:00 AM
   Metronidazole - [**2141-1-22**] 01:55 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-1-21**] 09:40 PM
   Heparin Sodium (Prophylaxis) - [**2141-1-21**] 09:40 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-22**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 94 (64 - 94) bpm
   BP: 167/75(108) {140/55(84) - 171/75(108)} mmHg
   RR: 33 (20 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,938 mL
                                                                    957 mL
   PO:
             TF:
                                                                    199 mL
                                                                    413 mL
   IVF:
                                                                  1,389 mL
                                                                    394 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                  1,150 mL
   Urine:
                                                                  1,950 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -12 mL
                                                                   -193 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.55/27/71/21/2
   PaO2 / FiO2: 118
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   12.7 g/dL
   245 K/uL
   140 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.2 mEq/L
   26 mg/dL
   114 mEq/L
   146 mEq/L
   34.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2141-1-19**]  08:01 PM
                             [**2141-1-20**]  12:52 AM
                             [**2141-1-20**]  04:25 AM
                             [**2141-1-20**]  10:58 AM
                             [**2141-1-20**]  11:34 AM
                             [**2141-1-20**]  07:25 PM
                             [**2141-1-21**]  03:15 AM
                             [**2141-1-21**]  10:28 AM
                             [**2141-1-22**]  03:44 AM
                             [**2141-1-22**]  04:37 AM
   WBC
   9.6
   9.6
   10.7
   Hct
   31.1
   29.3
   30.8
   31.6
   30.7
   32.5
   34.6
   Plt
   [**Telephone/Fax (3) 3795**]
   Cr
   1.0
   1.0
   0.9
   TCO2
   25
   23
   24
   Glucose
   128
   141
   140
   Other labs: PT / PTT / INR:16.4/31.4/1.5, CK / CKMB /
   Troponin-T:234/2/<0.01, ALT / AST:23/28, Alk Phos / T Bili:40/0.7,
   Differential-Neuts:84.4 %, Band:10.0 %, Lymph:11.8 %, Mono:2.9 %,
   Eos:0.7 %, D-dimer:[**Numeric Identifier 3717**] ng/mL, Fibrinogen:1154 mg/dL, Lactic Acid:1.8
   mmol/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   83 year old man with CVA, respiratory failure [**1-23**] aspiration. Extubated
   yesterday and requiring minimal supplemental O2. Per discussion with
   patient, now DNR/DNI.  Fevers resolved. Plan as per resiedent note,
   okay to transfer from ICU today.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2141-1-22**] 01:02 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2141-1-15**] 02:00 PM
   PICC Line - [**2141-1-21**] 09:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes